US09029545B2
N-[3-Bromo-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide
A mixture of ethyl 3-bromo-6-methyl-4-[(phenylsulfonyl)amino]-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate (Description 69) (6.1 g, 11.70 mmol) in DMSO (120 mL) and aqueous NaOH (5M) (9.36 mL, 46.8 mmol) was heated at 150° C. for ca. 2.5 h. After cooling to RT, the mixture was diluted with water (100 mL) and acidified with formic acid. The mixture was extracted with 20% MeOH in DCM (75 mL×5) and the combined organics dried and concentrated. Water (100 mL) was added to the residue and a precipitate crashed-out which was filtered and rinsed with water (50 mL×3). The solid was dried and then taken-up in diphenyl ether (74.4 mL, 468 mmol) and quinoline (13.86 mL, 117 mmol). The resulting mixture was then heated at 200° C. for ca. 5 h. After cooling to RT, the mixture was purified via normal phase chromatography, eluting with 0-100% ethyl acetate in DCM, to give the title compound (2.88 g). LCMS (A) m/z: 449/451 [M+1]+, Rt 1.05 min (acidic).

reactant | ethyl 3-bromo-6-methyl-4-[(phenylsulfonyl)amino]-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate | 11.70 mmol, 6.1 g | BrC1=C(SC2=NC(=C(C(=C21)NS(=O)(=O)C2=CC=CC=C2)C(=O)OCC)C)C=2C=NNC2 | C20H17BrN4O4S2
reactant | NaOH | 46.8 mmol, 5M, 9.36 mL | [OH-].[Na+]
reactant | diphenyl ether | 468 mmol, 74.4 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | quinoline | 117 mmol, 13.86 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | DMSO | 120 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | N-[3-Bromo-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide | 2.88 g | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C)C=2C=NNC2 | C17H13BrN4O2S2
